US04112096
9-Hydroxy-2(2-hydroxyethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one Method A
29.2 g (0.1 mole) of 9-(benzyloxy)-2-(2-hydroxyethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one and 0.5 g 10% palladium-on-carbon in 200 ml ethanol containing 0.2 moles of hydrogen chloride are hydrogenated on a Parr shaker, with cooling, at ambient temperature. The reaction is stopped after 0.3 moles of hydrogen are absorbed or when hydrogen uptake ceases, whichever comes first. The reaction is diluted with chloroform, filtered and the filtrate evaporated. The residue is suspended in methylene chloride and shaken with excess aqueous sodium bicarbonate. The organic phase is washed with water, dried and evaporated to give the title compound.

reactant | 9-(benzyloxy)-2-(2-hydroxyethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 0.1 mole, 29.2 g | C(C1=CC=CC=C1)OC1=CC=2C=3N(C(NC2C=C1)=O)N=C(C3)CCO | C19H17N3O3
reactant | ethanol | 0.2 moles, 200 ml | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen | 0.3 moles | [H][H] | H2
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | 9-Hydroxy-2(2-hydroxyethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | OC1=CC=2C=3N(C(NC2C=C1)=O)N=C(C3)CCO | C12H11N3O3
